US07872009B2
Step 1: (E)-3-(2-Bromo-5-fluorophenyl)-N-methoxy-N-methylacrylamide
Oxalyl chloride (2.0 M in dichloromethane, 2.08 mL, 4.16 mmol) was added to a suspension of (E)-3-(2-bromo-5-fluorophenyl)acrylic acid (678 mg, 2.77 mmol) in dichloromethane (8 mL). N,N-dimethylformamide (11 □L, 0.14 mmol) was added, and the resulting mixture was stirred at 25° C. for 1 h. The reaction mixture was concentrated in vacuo, and 4-dimethylaminopyridine (3 mg, 0.025 mmol), N,O-dimethylhydroxylamine hydrochloride (270 mg, 2.77 mmol), Hunig's base (1.44 mL, 8.28 mmol), and dichloromethane (8 ml) were added. The mixture was stirred at 25° C. for 10 h, then transferred to a separatory funnel with dichloromethane (100 mL), and the organic layer was extracted sequentially with water (7 mL), 0.5 M sodium carbonate (7 mL), 1 M hydrochloric acid (7 mL), and half-saturated brine (7 mL), and then dried over sodium sulfate and concentrated. Purification of the concentrate by flash column chromatography (33% to 40% EtOAc/hexane) afforded the title compound as a white solid. MS m/z: 288 & 290 (M+1).

reactant | Oxalyl chloride | 4.16 mmol, 2.0 M, 2.08 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | (E)-3-(2-bromo-5-fluorophenyl)acrylic acid | 2.77 mmol, 678 mg | BrC1=C(C=C(C=C1)F)/C=C/C(=O)O | C9H6BrFO2
reactant | N,N-dimethylformamide | 0.14 mmol | CN(C=O)C | C3H7NO
reactant | N,O-dimethylhydroxylamine hydrochloride | 2.77 mmol, 270 mg | Cl.CNOC
reactant | Hunig's base | 8.28 mmol, 1.44 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | dichloromethane | 8 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.025 mmol, 3 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
product | (E)-3-(2-Bromo-5-fluorophenyl)-N-methoxy-N-methylacrylamide | BrC1=C(C=C(C=C1)F)/C=C/C(=O)N(C)OC | C11H11BrFNO2
